US06956053B2
Step a. 5-(Adamantan-1-yloxymethyl)-2-cyclohexyl-2H-pyrazol-3-ol
NEt3 (800 μl, 5.7 mmol) was added to a solution of 4-(adamantan-1-yloxy)-3-oxo-butyric acid benzyl ester (1.91 g, 5.6 mmol), and cyclohexyl hydrazine hydrochloride (877 mg, 5.82 mmol) in EtOH (30 mL) at 0° C. The mixture was allowed to warm to room temperature and stirred for 4 h. The precipitated white solid was filtered and dried to afford the product as a white solid, (1.23 g, 66%.).

reactant | NEt3 | 5.7 mmol, 800 μl | CCN(CC)CC | C6H15N
reactant | 4-(adamantan-1-yloxy)-3-oxo-butyric acid benzyl ester | 5.6 mmol, 1.91 g | C(C1=CC=CC=C1)OC(CC(COC12CC3CC(CC(C1)C3)C2)=O)=O | C21H26O4
reactant | cyclohexyl hydrazine hydrochloride | 5.82 mmol, 877 mg | Cl.C1(CCCCC1)NN
solvent | EtOH | 30 mL | CCO | C2H6O
product | 5-(Adamantan-1-yloxymethyl)-2-cyclohexyl-2H-pyrazol-3-ol | C12(CC3CC(CC(C1)C3)C2)OCC=2C=C(N(N2)C2CCCCC2)O | C20H30N2O2
